************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_inv_15
* View Name:     schematic
* Netlisted on:  Oct  4 11:18:40 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM p5vonly=0
+ phires=0

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_15
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_15 in out
*.PININFO in:I out:O
MTN0 out in gnd! gnd! nfet m=1 l=180n w=600n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 out in vdd! vdd! pfet m=1 l=180n w=1.8u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
.ENDS

